US09416135B2
A solution of 8-(((tert-butyldiphenylsilyl)oxy)methyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indole (140 mg, 0.25 mmol), 10% Palladium on charcoal (37 mg, 0.025 mmol) and methanol (5 mL) was stirred at rt under 1 atmosphere of hydrogen for 3 h. The mixture was filtered through Celite® and the Celite® was washed thoroughly with methanol. Combined solvent was removed under reduced pressure to afford 8-(((tert-butyldiphenylsilyl)oxy)methyl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydropyrazino[1,2-a]indole. It was used directly without further purification. A small portion of product was purified by chromatography for characterization. LC-MS m/z 561 [M+H]+. 1H NMR (400 MHz, CD3OD): δ 8.00 (s, 1H), 7.73-7.70 (m, 5H), 7.47-7.40 (m, 6H), 6.36 (s, 1H), 5.20 (d, J=2.0 Hz, 2H), 4.24-4.19 (m, 1H), 4.11-4.00 (m, 2H), 3.52-3.47 (m, 1H), 3.20-3.13 (m, 1H), 3.03 (s, 3H), 2.47-2.39 (m, 1H), 1.18 (d, J=6.8 Hz, 3H), 1.09 (s, 9H), 0.96 (d, J=6.8 Hz, 3H). 13C NMR (100 MHz, CDCl3): δ 143.06, 135.68, 134.04, 133.31, 131.52, 130.26, 129.79, 129.51, 127.77, 121.39, 111.22, 97.14, 63.76, 59.28, 45.00, 42.94, 42.47, 31.55, 26.94, 19.72, 19.31, 16.49.

reactant | 8-(((tert-butyldiphenylsilyl)oxy)methyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indole | 0.25 mmol, 140 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN=C3C(C)C | C32H38N2O3SSi
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on charcoal | 0.025 mmol, 37 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 8-(((tert-butyldiphenylsilyl)oxy)methyl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydropyrazino[1,2-a]indole | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCNC3C(C)C | C32H40N2O3SSi
